US03952016
A homogeneous clear solution is prepared by adding 3 moles of acetone to a (1:1:1) mixture of 1-nonene oxide, 1-decene oxide, and 1-undecene oxide at room temperature. After adding 50 grams of 5% aqueous sulfuric acid to the solution, the acetone is evaporated off and the resulting solution is neutralized by adding an aqueous sodium hydroxide. The neutralized solution is extracted with pet ether and the extract dried over anhydrous magnesium sulfate. The pet ether is stripped off and a mixture of 1,2-nonanediol, 1,2-decanediol and 1,2 undecanediol is obtained by distilling under vacuo.

reactant | acetone | 3 moles | CC(=O)C | C3H6O
reactant | 1-nonene oxide | C1C(CCCCCCC)O1 | C9H18O
reactant | 1-decene oxide | C1C(CCCCCCCC)O1 | C10H20O
reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | sulfuric acid | 50 grams | S(O)(O)(=O)=O | H2O4S
product | 1,2 undecanediol | C(C(CCCCCCCCC)O)O | C11H24O2
